US04351843
4-Phenyl-5-benzoylpyrrole-3-carboxylic Acid
Methyl 4-phenyl-5-benzoylpyrrole-3-carboxylate (345 mg.) was combined with 20 ml. of methanol and 10 ml. of 1 N sodium hydroxide and boiled in an open flask for 1 hour. The aqueous residue was cooled, extracted with ethyl acetate, acidified with conc. hydrochloric acid, and product recovered by filtration. Recrystallization from tetrahydrofuran/hexane afforded purified 4-phenyl-5-benzoylpyrrole-3-carboxylic acid [63 mg., m.p. 285°-287° C. (dec.)].

reactant | Methyl 4-phenyl-5-benzoylpyrrole-3-carboxylate | 345 mg | C1(=CC=CC=C1)C=1C(=CNC1C(C1=CC=CC=C1)=O)C(=O)OC | C19H15NO3
reactant | sodium hydroxide | 1 N | [OH-].[Na+]
solvent | methanol | CO | CH4O
product | 4-Phenyl-5-benzoylpyrrole-3-carboxylic Acid | C1(=CC=CC=C1)C=1C(=CNC1C(C1=CC=CC=C1)=O)C(=O)O | C18H13NO3
